US09238631B2
d) (5R)-6-tert-Butoxy-2-(tert-butoxycarbonyl)-5-[(tert-butoxycarbonyl)amino]-2-(4-hydroxybenzyl)-6-oxohexanoic acid
To a solution of 370 mg di-tert-butyl (5R)-2-[4-(benzyloxy)benzyl]-2-(benzyloxycarbonyl)-5-[(tert-butoxycarbonyl)amino]hexanedioate (0.53 mmol) in methanol (10 mL) was added a 10% palladium on carbon hydrogenation catalyst (50 mg) at room temperature. The suspension was stirred for 2.5 hours at room temperature under an atmosphere of hydrogen. The catalyst was removed by filtration and all volatiles were removed in vacuo. The crude product (273 mg, 99% yield) was used in the next step without further purification.

reactant | di-tert-butyl (5R)-2-[4-(benzyloxy)benzyl]-2-(benzyloxycarbonyl)-5-[(tert-butoxycarbonyl)amino]hexanedioate | 0.53 mmol, 370 mg | C(C1=CC=CC=C1)OC1=CC=C(CC(C(=O)OC(C)(C)C)(CC[C@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)C(=O)OCC2=CC=CC=C2)C=C1 | C41H53NO9
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | (5R)-6-tert-Butoxy-2-(tert-butoxycarbonyl)-5-[(tert-butoxycarbonyl)amino]-2-(4-hydroxybenzyl)-6-oxohexanoic acid | 273 mg, 99% yield | C(C)(C)(C)OC([C@@H](CCC(C(=O)O)(CC1=CC=C(C=C1)O)C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C27H41NO9
